US07825265B2
4-(1-Phenylcyclohexyl)phenol (ERB-002)
1-Phenyl-1-cyclohexene (1 g, 6.3 mmol), phenol (1.5 g, 15.9 mmol) and BF3.H3PO4 (0.05 mL) were mixed and shaken at 80° C. overnight. Dichloromethane (30 mL) was added and the organic phase was washed with saturated NaHCO3 (aq.) (2×10 mL), dried (Na2SO4) and concentrated. The title compound was crystallised from a mixture of methanol and water. Yield: 1040 mg. 1H NMR (400 MHz, CDCl3): d 7.28-7.25 (m, 4H), 7.16-7.10 (m, 3H), 6.75-6.70 (m, 2H), 4.51 (br. s, 1H), 2.28-2.22 (m, 4H), 1.60-1.52 (m, 4H), 1.52-1.45 (m, 2H). 13C NMR (100 MHz, CDCl3): d 153.25, 149.15, 141.22, 128.63, 128.39, 127.29, 125.55, 115.21, 45.89, 37.50, 26.63, 23,14. LC-MS purity (UV/MS): 100/100%, R. 5.07 min, M−1: 251.62.

reactant | 1-Phenyl-1-cyclohexene | 6.3 mmol, 1 g | C1(=CC=CC=C1)C1=CCCCC1 | C12H14
reactant | phenol | 15.9 mmol, 1.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | BF3 | B(F)(F)F | BF3
reactant | H3PO4 | 0.05 mL | OP(=O)(O)O | H3O4P
solvent | Dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-(1-Phenylcyclohexyl)phenol | C1(=CC=CC=C1)C1(CCCCC1)C1=CC=C(C=C1)O | C18H20O
